US08710245B2
A mixture of tert-butyl (2-iodo-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)-methylcarbamate (400 mg, 1.0 mmol, 1 eq), piperidine (2 mL), Cu metal (6.4 mg, 1 mmol, 0.1 eq), and K3PO4.3H2O (539.3 mg, 2.34 mmol, 2.3 eq) in 2-dimethylamino-ethanol (deanol) (5 mL) was stirred at 85° C. in a sealed tube for 28 hr. After cooling to room temperature, the reaction mixture was diluted with water, extracted with ethyl acetate, washed with brine, dried over Na2SO4, concentrated and purified by Al2O3 column chromatography. The Boc protecting group was removed with HCl under standard conditions to give the product (2-(piperidin-1-yl)-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methanamine.

reactant | tert-butyl (2-iodo-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)-methylcarbamate | 1.0 mmol, 400 mg, 1 eq | IC1=CC=2C(OCCC2S1)N(C(OC(C)(C)C)=O)C | C13H18INO3S
reactant | piperidine | 2 mL | N1CCCCC1 | C5H11N
reactant | 2-dimethylamino-ethanol | 5 mL | CN(CCO)C | C4H11NO
solvent | water | O | H2O
product | (2-(piperidin-1-yl)-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methanamine | N1(CCCCC1)C1=CC=2C(OCCC2S1)CN | C13H20N2OS
